US05196610
Sodium hydroxide solution (2 molar, 0.5 cm3) was added to a solution of 3-(2,4-difluorophenoxy)benzaldehyde (2 g) in methanol (20 cm3) and the mixture was cooled to 0° C. Sodium borohydride (0.5 g) was added, and the mixture stirred for 30 minutes. After this time, water was added, and the mixture acidified to pH 4 by addition of dilute hydrochloric acid. This mixture was extracted with diethyl ether (5×50 cm3). The combined organic layers were dried over anhydrous sodium sulphate, and the solvents evaporated under reduced pressure. The residue was purified by column chromatography on a silica gel support, using n-hexane containing 20% by volume ethyl acetate as eluent, to give 3-(2,4-difluorophenoxy)benzyl alcohol as a colourless oil.

reactant | Sodium hydroxide | 2 molar, 0.5 cm3 | [OH-].[Na+]
reactant | 3-(2,4-difluorophenoxy)benzaldehyde | 2 g | FC1=C(OC=2C=C(C=O)C=CC2)C=CC(=C1)F | C13H8F2O2
reactant | Sodium borohydride | 0.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 cm3 | CO | CH4O
solvent | water | O | H2O
product | 3-(2,4-difluorophenoxy)benzyl alcohol | FC1=C(OC=2C=C(CO)C=CC2)C=CC(=C1)F | C13H10F2O2
